US07230003B2
STEP A: 2-[2,6-Bis(isopropyl)phenoxycarbonyl]-benzoic acid (102)
To a mixture of phthalic anhydride (0.84 g, 5.6 mmol) and propofol (1 g, 5.6 mmol) was added triethylamine (0.65 g, 6.4 mmol) and a catalytic amount of DMAP. The reaction mixture was brought to 90° C., stirred for 14 h, cooled to room temperature and diluted with ethyl ether (100 mL). The organic layer was washed with 10% aqueous citric acid solution (2×50 mL). The phases were separated and the organic phase was dried over MgSO4 and concentrated in vacuo. The crude product was sufficiently pure to be carried to the subsequent step.

reactant | phthalic anhydride | 5.6 mmol, 0.84 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | propofol | 5.6 mmol, 1 g | CC(C)C=1C=CC=C(C1O)C(C)C | C12H18O
reactant | triethylamine | 6.4 mmol, 0.65 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-[2,6-Bis(isopropyl)phenoxycarbonyl]-benzoic acid | C(C)(C)C1=C(OC(=O)C2=C(C(=O)O)C=CC=C2)C(=CC=C1)C(C)C | C20H22O4
